US04248883
L-Prolyl-L-phenylalanine tert-butyl ester (0.54 g) was added to a solution of 3-propanoylthio-2-methylpropanoic acid (0.30 g) and dicyclohexylcarbodiimide (0.35 g) in dichloromethane (10 ml) cooled in an ice bath. The mixture was stirred in the ice bath for one hour and then at room temperature overnight, followed by concentration under reduced pressure. Ethyl acetate was added to the residue. After cooling, the precipitates were filtered off. The filtrate was washed, dried and concentrated as in Example 26. The residue was chromatographed as in Example 26 to give 1-(3-propanoylthio-2-methylpropanoyl)-L-prolyl-L-phenylalanine tert-butyl ester.

reactant | L-Prolyl-L-phenylalanine tert-butyl ester | 0.54 g | C(C)(C)(C)OC([C@@H](NC([C@H]1NCCC1)=O)CC1=CC=CC=C1)=O | C18H26N2O3
reactant | 3-propanoylthio-2-methylpropanoic acid | 0.30 g | C(CC)(=O)SCC(C(=O)O)C | C7H12O3S
reactant | dicyclohexylcarbodiimide | 0.35 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
product | 1-(3-propanoylthio-2-methylpropanoyl)-L-prolyl-L-phenylalanine tert-butyl ester | C(C)(C)(C)OC([C@@H](NC([C@H]1N(CCC1)C(C(CSC(CC)=O)C)=O)=O)CC1=CC=CC=C1)=O | C25H36N2O5S
